US08648069B2
[4-(3-amino-1H-indazol-5-yl)-1H-pyrazol-1-yl]acetonitrile
To a solution of tert-butyl 3-(bis(tert-butoxycarbonyl)amino)-5-(1-(cyanomethyl)-1H-pyrazol-4-yl)-1H-indazole-1-carboxylate (0.30 g, 0.557 mmol) in dichloromethane (4.0 mL) was added trifluoroacetic acid (2.0 mL). After about 45 minutes, the reaction was slowly quenched with saturated aqueous sodium bicarbonate. The resulting mixture was extracted with dichloromethane (3×25 mL). The combined organic layers were washed with brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure to give a crude solid. A white precipitate that was suspended in both the initial aqueous layer and the brine layer was filtered and added to the crude solid. The resulting solid was triturated with dichloromethane/methanol (19:1). The remaining solid was collected by vacuum filtration and dried in a vacuum oven at about 70° C. to afford the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.37 (s, 1H), 8.12 (s, 1H), 7.92 (s, 1H), 7.89 (s, 1H) 7.49-7.41 (m, 1H), 7.24 (d, J=8.71 Hz, 1H), 5.52 (s, 2H), 5.31 (s, 2H). MS (ESI+) m/z 239.1 (M+H)+.

reactant | tert-butyl 3-(bis(tert-butoxycarbonyl)amino)-5-(1-(cyanomethyl)-1H-pyrazol-4-yl)-1H-indazole-1-carboxylate | 0.557 mmol, 0.30 g | C(C)(C)(C)OC(=O)N(C1=NN(C2=CC=C(C=C12)C=1C=NN(C1)CC#N)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C27H34N6O6
reactant | trifluoroacetic acid | 2.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 4.0 mL | ClCCl | CH2Cl2
product | [4-(3-amino-1H-indazol-5-yl)-1H-pyrazol-1-yl]acetonitrile | NC1=NNC2=CC=C(C=C12)C=1C=NN(C1)CC#N | C12H10N6
